US06127380
4-(2-Chloroethoxy)-benzimidazole
To a solution of 4-hydroxybenzimidazole (3.1 g, 32.4 mmol), triphenylphosphine (12.75 g, 48.6 mmol) and 2-chloroethanol (5.2 g, 64.8 mmol) in tetrahydrofuran (75 mL) at 0-5° C. was added over 30 min a solution of diethyl azodicarboxylate (8.5 g, 48.7 mmol) in tetrahydrofuran (75 mL). The mixture was warmed to 23° C. and stirred for 48 hr. The solvent was removed under vacuum to give a dark brown oil. Purification by chromatography (silica gel, ethyl acetate-1% 2M NH3 in methanol) afforded 2.9 g (63.8%) of a solid residue that was crystallized from ethyl acetate to give the title compound as a white solid, mp 153-154° C.

reactant | 4-hydroxybenzimidazole | 32.4 mmol, 3.1 g | OC1=CC=CC=2N=CNC21 | C7H6N2O
reactant | triphenylphosphine | 48.6 mmol, 12.75 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chloroethanol | 64.8 mmol, 5.2 g | ClCCO | C2H5ClO
reactant | diethyl azodicarboxylate | 48.7 mmol, 8.5 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 4-(2-Chloroethoxy)-benzimidazole | 2.9 g, 63.8% | ClCCOC1=CC=CC=2N=CNC21 | C9H9ClN2O
